US08466163B2
3,5-Dimethoxy-4-(4-methoxy-benzyloxy)-2-(1-methyl-1H-pyrazol-4-ylethynyl)-pyridine (θ):
To a stirred solution of 2-iodo-3,5-dimethoxy-4-(4-methoxy-benzyloxy)-pyridine (95 mg, 0.237 mmol) and 4-ethynyl-1-methyl-1H-pyrazole (30 mg, 0.283 mmol) in dry MeCN (1.5 ml) and NEt3 (0.5 ml) was added Pd(Ph3P)2Cl2 (12 mg, 7 mol %) and the reaction vessel was evacuated and backfilled with nitrogen three times. Copper (I) iodide (5 mg, 11 mol %) was added and the reaction mixture immediately became dark. Stirring was continued for 0.5 hours then the crude mixture was concentrated directly onto silica-gel under reduced pressure and the solid residue was purified by flash chromatography (silica-gel, eluted sequentially with EtOAc:hexanes, 2:1, 3:1, 1:0) to give the product as a white solid (85 mg, 95%). 1H—NMR (300 MHz, CDCl3) δ 7.98 (s, 1H), 7.66 (s, 1H), 7.57 (s, 1H), 7.34 (d, J=8.6 Hz, 2H), 6.86 (d, J=2H), 5.13 (s, 2H), 3.93 (s, 3H), 3.91 (s, 3H), 3.89 (s, 3H), 3.78 (s, 3H).

reactant | 2-iodo-3,5-dimethoxy-4-(4-methoxy-benzyloxy)-pyridine | 0.237 mmol, 95 mg | IC1=NC=C(C(=C1OC)OCC1=CC=C(C=C1)OC)OC | C15H16INO4
reactant | 4-ethynyl-1-methyl-1H-pyrazole | 0.283 mmol, 30 mg | C(#C)C=1C=NN(C1)C | C6H6N2
solvent | MeCN | 1.5 ml | CC#N | C2H3N
solvent | NEt3 | 0.5 ml | CCN(CC)CC | C6H15N
catalyst | Pd(Ph3P)2Cl2 | 12 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3,5-Dimethoxy-4-(4-methoxy-benzyloxy)-2-(1-methyl-1H-pyrazol-4-ylethynyl)-pyridine | 85 mg, 95% | COC=1C(=NC=C(C1OCC1=CC=C(C=C1)OC)OC)C#CC=1C=NN(C1)C | C21H21N3O4
